US04294842
4-Bromobenzenethiol (3.78 g, 0.02 mol) was added to a solution of sodium (0.46 g, 0.02 mol) in ethanol (50 ml.) and 3,5-di-(chloromethyl)-1,2,4-oxadiazole (1.67 g, 0.01 mol) was added dropwise. The solution was then filtered and evaporated to give a solid which was recrystallised from isopropanol to give 3,5-di-(4-bromophenylthiomethyl)-1,2,4-oxadiazole, m.p. 80°.

reactant | 4-Bromobenzenethiol | 0.02 mol, 3.78 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | sodium | 0.02 mol, 0.46 g | [Na] | Na
reactant | 3,5-di-(chloromethyl)-1,2,4-oxadiazole | 0.01 mol, 1.67 g | ClCC1=NOC(=N1)CCl | C4H4Cl2N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,5-di-(4-bromophenylthiomethyl)-1,2,4-oxadiazole | BrC1=CC=C(C=C1)SCC1=NOC(=N1)CSC1=CC=C(C=C1)Br | C16H12Br2N2OS2
